US04610982
To a well-stirred solution consisting of 3.1 g. (0.015 mole) of α-(4-isobutylphenyl)propionic acid (ibuprofen) dissolved in 200 ml. of methylene chloride, there were added 3.8 g. (0.030 mole) of oxalyl chloride. The resulting reaction mixture was refluxed for a period of two hours and then cooled to room temperature. The clear colorless solution so obtained was thereafter concentrated in vacuo to dryness to yield a residue that was substantially free of solvent and excess oxalyl chloride. In this way, there was readily obtained substantially pure α-(4-isobutylphenyl)-propionyl chloride in the form of a clear colorless oil. The latter product was used as such in the next reaction step without any purification being necessary. The yield of product was assumed to be quantitative.

reactant | α-(4-isobutylphenyl)propionic acid | 0.015 mole | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C13H18O2
reactant | oxalyl chloride | 0.030 mole | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | α-(4-isobutylphenyl)-propionyl chloride | C(C(C)C)C1=CC=C(C=C1)C(C(=O)Cl)C | C13H17ClO
